US04735959
4-[(1-(5-Dimethylamino-2-piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid
A tenth of a gram (1.589 m mol) of sodium cyanoborohydride and, after two minutes, 0.056 ml of glacial acetic acid were added at 20° C. to a stirred solution of 0.20 gm (0.5242 m mol) of 4-[(1-(5-amino-2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid and 0.45 ml of 40% formalin in 2 ml of acetonitrile and 1 ml of absolute dimethyl formamide. After 1.5 hours the reaction mixture was evaporated in vacuo. The evaporation residue was dissolved in water by addition of hydrochloric acid at a pH of 2 to 3. After extraction with chloroform several times the aqueous phase was adjusted to a pH of 6 to 7 by means of saturated sodium bicarbonate solution and extracted several times with chloroform. This organic extract was dried and filtered. After evaporation in vacuo the evaporation residue was recrystallized from isopropanol. The colorless crystals were washed with absolute ether.

reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.056 ml | C(C)(=O)O | C2H4O2
reactant | 4-[(1-(5-amino-2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid | 0.20 gm | NC=1C=CC(=C(C1)C(C)C(C1=CC=C(C(=O)O)C=C1)C(=O)N)N1CCCCC1 | C22H27N3O3
reactant | formalin | 0.45 ml | C=O | CH2O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | dimethyl formamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-[(1-(5-Dimethylamino-2-piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid | CN(C=1C=CC(=C(C1)C(C)C(C1=CC=C(C(=O)O)C=C1)C(=O)N)N1CCCCC1)C | C24H31N3O3
